US07378409B2
A solution of benzyl ((7R,8S)-7-(isopropylsulfonylmethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate (2.3 g, 5.6 mmol) in acetone (30 ml) is treated with 5 N HCl (30 ml) and heated to reflux for 2 hrs. The The mixture is concentrated on a rotary evaporator and the residue neutralized with 1 N NaOH and extracted into CH2Cl2. The organic extracts were washed with water, brine, and the solvent remove under vacuum to give 2.0 g of benzyl (1S,2R)-2-(isopropylsulfonylmethyl)-4-oxocyclohexylcarbamate. This is used without further purification.

reactant | benzyl ((7R,8S)-7-(isopropylsulfonylmethyl)-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamate | 5.6 mmol, 2.3 g | C(C)(C)S(=O)(=O)C[C@@H]1CC2(OCCO2)CC[C@@H]1NC(OCC1=CC=CC=C1)=O | C20H29NO6S
reactant | HCl | 5 N, 30 ml | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | benzyl (1S,2R)-2-(isopropylsulfonylmethyl)-4-oxocyclohexylcarbamate | 2.0 g | C(C)(C)S(=O)(=O)C[C@H]1[C@H](CCC(C1)=O)NC(OCC1=CC=CC=C1)=O | C18H25NO5S
